data/oMe_Silver.jsonl
{"reaction_id": "NR-329_1-C(F)(F)F_2-COCC_3-C=C(C)C_4-CC","level": "medium","name": "Ramberg-Bäcklund Reaction","reactants_smiles": ["C([H])(C(F)(F)F)(COCC)S(=O)(=O)C(Cl)(C=C(C)C)CC"],"products_smiles": ["C(=C(C=C(C)C)CC)(C(F)(F)F)COCC"],"conditions": "Strong base (e.g., t-BuOK)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](C(F)(F)F)(COCC)S(=O)(=O)C(Cl)(C=C(C)C)CC","step_weight": 0,"rationale": "t-BuOK deprotonates the acidic α-proton due to strong electron-withdrawing sulfone stabilization of the resulting carbanion via resonance and inductive effects."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C1(C(F)(F)F)(COCC)S(=O)(=O)C1(C=C(C)C)CC","step_weight": 0,"rationale": "The nucleophilic carbanion attacks intramolecularly, displacing chloride, favored by good leaving group ability of Cl⁻ and proximity-driven cyclization."},{"step": 3,"type": "pericyclic","subtype": "cheletropic_reaction","intermediate_smiles": "C(=C(C=C(C)C)CC)(C(F)(F)F)COCC","step_weight": 0,"rationale": "The strained episulfone undergoes concerted SO₂ extrusion, driven by formation of a stable alkene and release of gaseous SO₂."}],"description": "Under strong base, the α-proton adjacent to the sulfone is abstracted to form a stabilized carbanion, which intramolecularly displaces chloride to form a strained episulfone. This intermediate undergoes a cheletropic elimination of SO₂, yielding the substituted alkene product."}
{"reaction_id": "NR-210_1-C2CCCCC2_2-c2ccccc2_3-c2cnccc2","level": "medium","name": "Parikh-Doering Oxidation","reactants_smiles": ["O=S(C)(C2CCCCC2)","O(C(c2ccccc2)(c2cnccc2))"],"products_smiles": ["O=C(c2ccccc2)c2cnccc2"],"conditions": "Et3N,SO3,Py","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=[N+](C=C1)[S](=O)(=O)[O-]","step_weight": 0,"rationale": "SO3 coordinates to pyridine due to pyridine’s nucleophilicity and the strong electrophilicity of sulfur, forming a reactive sulfonyl–pyridinium complex."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C[S+](C2CCCCC2)O[S](=O)(=O)[O-]","step_weight": 0,"rationale": "The alcohol oxygen attacks the activated sulfur center, as sulfur is highly electrophilic and pyridine is a good leaving group under these conditions."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([S](C2CCCCC2)(O([S](=O)(=O)[O-]))O(C(c2ccccc2)(c2cnccc2)))","step_weight": 0,"rationale": "The alkoxide generated from the alcohol displaces a leaving group on sulfur, forming an alkoxysulfonium species stabilized by the electron-withdrawing sulfonyl group."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[S](C2CCCCC2)(=C)O(C(c2ccccc2)(c2cnccc2))","step_weight": 0,"rationale": "Base-induced elimination occurs because the α-proton is acidic due to adjacent positively charged sulfur, generating a sulfur ylide intermediate."},{"step": 5,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "O=C(c2ccccc2)c2cnccc2","step_weight": 0,"rationale": "The sulfur ylide undergoes a [2,3]-sigmatropic rearrangement, driven by formation of a stable carbonyl and relief of charge separation."}],"description": "In the Parikh–Doering oxidation, the alcohol is oxidized to a carbonyl compound under mild, non-aqueous conditions using SO3–pyridine and triethylamine. The sequence involves activation of the oxidant, formation of an alkoxysulfonium intermediate, elimination to a sulfur ylide, and rearrangement to the carbonyl product."}
